US04587262
2-Octanoyloxy-1-(octanoyloxymethyl)ethyl hydrogen glutarate (4.22 g.) was dissolved in dry toluene (40 ml.) and stirred with trifluoroacetic anhydride (5.2 ml.) for 2.5 hours. Triclosan (2.67 g.) was added and the mixture stirred for a further 20 hours. The solution obtained was washed successively with water (2×40 ml.), saturated sodium bicarbonate solution (2×40 ml.) and saturated brine (40 ml.). The organic phase was dried (MgSO4) and evaporated. The oil obtained was chromatographed on silica gel using methylene chloride as eluant to give 5-chloro-2-(2,4-dichlorophenoxy)phenyl 2-octanoyloxy-1-(octanoyloxymethyl)ethyl glutarate as an oil, having the same NMR and mass spectra as described for the ester in Example 1.

reactant | 2-Octanoyloxy-1-(octanoyloxymethyl)ethyl hydrogen glutarate | 4.22 g | C(CCCC(=O)O)(=O)OC(COC(CCCCCCC)=O)COC(CCCCCCC)=O | C24H42O8
reactant | trifluoroacetic anhydride | 5.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Triclosan | 2.67 g | C1=CC(=C(C=C1Cl)O)OC=2C=CC(=CC2Cl)Cl | C12H7Cl3O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-(2,4-dichlorophenoxy)phenyl 2-octanoyloxy-1-(octanoyloxymethyl)ethyl glutarate | C(CCCC(=O)OC(COC(CCCCCCC)=O)COC(CCCCCCC)=O)(=O)OC1=C(C=CC(=C1)Cl)OC1=C(C=C(C=C1)Cl)Cl | C36H47Cl3O9
